US04822902
N-(1',1'-dimethyl-3'-hydroxyacetonyl)-3,5-dichlorobenzamide
N-(1',1'-dimethyl-3'-acetoxyacetonyl)-3,5-dichlorobenzamide (5.0 gm, 0.15 m) was treated with potassium carbonate (0.21 gm, 0.0015 m) in 250 ml methanol at room temperature for 12 hours. The methanol was removed by a vacuum, the residue was taken up in ether and washed successively with saturated sodium bicarbonate, water and brine. Drying of the ether solution followed by removing the solvent yielded 4.0 gm (98%) of pure product.

reactant | N-(1',1'-dimethyl-3'-acetoxyacetonyl)-3,5-dichlorobenzamide | 5.0 gm | CC(C(=O)COC(C)=O)(C)NC(C1=CC(=CC(=C1)Cl)Cl)=O | C14H15Cl2NO4
reactant | potassium carbonate | 0.21 gm | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 250 ml | CO | CH4O
product | N-(1',1'-dimethyl-3'-hydroxyacetonyl)-3,5-dichlorobenzamide | 4.0 gm, 98% | CC(C(=O)CO)(C)NC(C1=CC(=CC(=C1)Cl)Cl)=O | C12H13Cl2NO3
